US05672567
To a solution of 1.5 g of imidazole in 30 ml of THF at 0° C., 8.8 ml of a 2.5M solution of n-butyl lithium in hexane were added slowly over about 7 minutes. The reaction mixture became light yellow and cloudy. After 1.5 hours, 4.2 g of 2-trifluoromethylbenzaldehyde were added slowly at about 10° C. The reaction mixture was allowed to warm to room temperature and then stirred at room temperature over the weekend. 2.9 g of trimethylacetyl chloride were added slowly at room temperature and the mixture was stirred over the weekend. Ice was added to quench the reaction and the layers were separated. The organic layer was dried (MgSO4), filtered and concentrated. The residue was put onto a silica gel column and eluted with a 1:1 mixture of hexane:ethyl acetate to yield 1.5 g of N-(1-trimethylacetoxy-2'-trifluoromethylbenzyl)-imidazole in the form of a clear oil.

reactant | imidazole | 1.5 g | N1C=NC=C1 | C3H4N2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 2-trifluoromethylbenzaldehyde | 4.2 g | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | trimethylacetyl chloride | 2.9 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | N-(1-trimethylacetoxy-2'-trifluoromethylbenzyl)-imidazole | 1.5 g | CC(C(=O)OC1(CN2C=NC=C2)C(C=CC=C1)C(F)(F)F)(C)C | C16H19F3N2O2
